US06809199B2
39 mg of PtO2 (Adam's catalyst) was added to the mixture of 7-(8-azabicyclo[3.2.1]oct-2-en-3-yl)-5-(2chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one (77 mg) in 2 mL ethyl acetate. The resulting reaction mixture was evacuated and purged with argon. Then hydrogen was bubbled through and the reaction mixture was stirred under hydrogen for 8 h. The reaction mixture was filtered, concentrated under reduced pressure, and purified by preparative thin-layer chromatography, eluting with 95:5 CH2Cl2-2M NH3 in methanol to yield 7-(8-azabicyclo[3.2.1]oct-3-yl)-5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one. Mass spectrum (ESI) 528.6 (M+1).

reactant | 7-(8-azabicyclo[3.2.1]oct-2-en-3-yl)-5-(2chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | 77 mg | C12C=C(CC(CC1)N2)C2=NC(=C1C=CC(N(C1=C2)C2=C(C=CC=C2Cl)Cl)=O)C2=C(C=C(C=C2)F)Cl | C27H19Cl3FN3O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 39 mg | O=[Pt]=O
product | 7-(8-azabicyclo[3.2.1]oct-3-yl)-5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | C12CC(CC(CC1)N2)C2=NC(=C1C=CC(N(C1=C2)C2=C(C=CC=C2Cl)Cl)=O)C2=C(C=C(C=C2)F)Cl | C27H21Cl3FN3O
